US06525231B1
A 225-mL Hastelloy™ nickel alloy tube was charged with 134.0 g (0.30 mol) of perfluorohexyl iodide, cooled to −80° C. and evacuated, then warmed to 22° C. and pressured to 380 psi (2.72 mPa) with hydrogen (0.17 mol). Heating to 300° C. was accompanied by at least three temperature spikes, the first beginning at 240° C. The pressure at 300° C. began at 990 psi (6.93 mPa) and dropped to 860 psi (6.03 mPa) within 2 hours. When cooled to 25° C., the reactor showed zero pressure on the gauge. Distillation of the liquid product afforded 77.9 g (81%) of pure 1H-perfluorohexane (Boiling Point 70.6-71.2° C.), confirmed by GC and NMR.

reactant | perfluorohexyl iodide | 0.30 mol, 134.0 g | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)I | C6F13I
reactant | hydrogen | 0.17 mol | [H][H] | H2
catalyst | nickel | [Ni] | Ni
product | 1H-perfluorohexane | 77.9 g, 81% | C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C6HF13
